US06200353B1
To a stirred solution of 5-amino-2-methylphenol (12.30 g, 100 mmole) in methanol (100 mL) at 4° C. was added 2-furaldehyde (14.41 g, 150 mmole) and sodium acetate (16.41 g, 200 mmole). The reaction mixture was stirred for 15 minutes and sodium borohydride (4.73 g, 125 mmole) was added portionwise over 1 hour at 4° C. After the addition was complete, the reaction was allowed to stir for an additional 1.5 hours. The reaction mixture was poured onto crushed ice slurry (200 g) and the resulting precipitate was collected, washed with cold water three times and air-dried to afford 2-methyl-5-(furan-2-yl-methylamino)phenol (16.86 g, 83% yield): mp 126.8-128.5° C.; 1HNMR (400 MHz, DMSO-d6) δ 1.94 (s, 3H), 4.12 (d, 2H, J=6.1 Hz), 5.71 (t, 1H, J=6.1 Hz), 6.00 (dd, 1H, J=2.3, 8.0 Hz), 6.11 (d, 1H, J=2.2 Hz), 6.22 (d, 1H, J=3.0 Hz 6.36 (m, 1H), 6.70 (d, 1H, J=8.1 Hz), 7.54 (t, 1H, J=0.8 Hz), 8.79 (s, 1H); MS m/z203 (M+).

reactant | 5-amino-2-methylphenol | 100 mmole, 12.30 g | NC=1C=CC(=C(C1)O)C | C7H9NO
reactant | 2-furaldehyde | 150 mmole, 14.41 g | O1C(=CC=C1)C=O | C5H4O2
reactant | sodium acetate | 200 mmole, 16.41 g | C(C)(=O)[O-].[Na+]
reactant | sodium borohydride | 125 mmole, 4.73 g | [BH4-].[Na+]
solvent | methanol | 100 mL | CO | CH4O
product | 2-methyl-5-(furan-2-yl-methylamino)phenol | 16.86 g, 83% yield | CC1=C(C=C(C=C1)N(C)C=1OC=CC1)O | C12H13NO2
